US07244730B2
(Step 2) 2-{4-[5-Bromo-3-(tert-butyl)-2-methoxyphenyl]piperazino}acetonitrile
1-[5-bromo-3-(tert-butyl)-2-methoxyphenyl]piperazine (550 mg), potassium carbonate (302 mg), dimethylformamide (7 ml) and bromoacetonitrile (0.12 ml) were combined and the mixture was stirred at room temperature for 4 hours. The reaction mixture was diluted with ethyl acetate, the insoluble portion was filtered off, and the concentrated residue was purified by silica gel column chromatography (solvent: n-hexane-ethyl acetate) to yield the title compound (480 mg) as colorless crystals (78%).

reactant | 1-[5-bromo-3-(tert-butyl)-2-methoxyphenyl]piperazine | 550 mg | BrC=1C=C(C(=C(C1)N1CCNCC1)OC)C(C)(C)C | C15H23BrN2O
reactant | potassium carbonate | 302 mg | C([O-])([O-])=O.[K+].[K+]
reactant | dimethylformamide | 7 ml | CN(C=O)C | C3H7NO
reactant | bromoacetonitrile | 0.12 ml | BrCC#N | C2H2BrN
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-{4-[5-Bromo-3-(tert-butyl)-2-methoxyphenyl]piperazino}acetonitrile | 480 mg, 78% | BrC=1C=C(C(=C(C1)N1CCN(CC1)CC#N)OC)C(C)(C)C | C17H24BrN3O
